US07592477B2
{(2-dec-1-ynylbenzyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetic acid
The same procedure as employed in the preparation of Example 226 (step c) but using ethyl{(2-bromobenzyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetate and dec-1-yne gave the title compound as a pale yellow oil. M−(LC/MS(ESI)): 472.0. HPLC (Condition A), Rt: 5.51 min (HPLC purity: 99.6%).

reactant | ethyl{(2-bromobenzyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetate | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=C(C=CC=C1)Br)=O | C19H17BrF3NO3
reactant | dec-1-yne | C#CCCCCCCCC | C10H18
product | {(2-dec-1-ynylbenzyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetic acid | C(#CCCCCCCCC)C1=C(CN(CC2=CC=C(C=C2)C(F)(F)F)C(C(=O)O)=O)C=CC=C1 | C27H30F3NO3
